US05608056
A mixture of (2R,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-(2-methanesulfonyloxyethyl)pyrrolidine (10.0 g) and 1,2,4-triazole sodium salt (2.45 g) in dimethylformamide (50 ml) was stirred at 60° C. for 3.5 hours. After cooling to room temperature, the mixture was quenched by the addition of water (100 ml) and extracted with a mixture of hexane and ethyl acetate (2:1, 50 ml×4). The combined extract was washed with water (400 ml), brine (100 ml) and dried over magnesium sulfate. Evaporation of the solvent gave (2R,4R)-1-allyloxy-carbonyl-4-(t-butyldimethylsilyloxy)-2-[2-(1,2, 4-triazol-1-yl)ethyl]pyrrolidine (8.82 g) as a light brown paste.

reactant | (2R,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-(2-methanesulfonyloxyethyl)pyrrolidine | 10.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCOS(=O)(=O)C | C17H33NO6SSi
reactant | 1,2,4-triazole sodium salt | 2.45 g | [Na].N1N=CN=C1
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (2R,4R)-1-allyloxy-carbonyl-4-(t-butyldimethylsilyloxy)-2-[2-(1,2, 4-triazol-1-yl)ethyl]pyrrolidine | 8.82 g | C(C=C)ON1[C@@H](C([C@H](C1)O[Si](C)(C)C(C)(C)C)=C=O)CCN1N=CN=C1 | C18H30N4O3Si
